US08614226B2
A solution of 1.99 g (10.0 mmol) 2,4-dichloro-[1,8]naphthyridine, 1.47 g (10.0 mmol) 2-cyanobenzeneboronic acid and 1.01 g (120.0 mmol) sodium bicarbonate in 100 ml DMF and 50 ml water was heated to 80° C. under nitrogen. 140 mg (0.20 mmol) bis-(triphenyl-phosphine)-palladium(II)-chloride were added and the mixture was stirred for 16 hrs at 80° C. Water was added to the reaction mixture and the resulting precipitate was filtered off and washed well with water. The residue was dried in vacuum yielding 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzamide as yellow crystals; HPLC-MS: 1.55 min, [M+H] 284.

reactant | 2,4-dichloro-[1,8]naphthyridine | 10.0 mmol, 1.99 g | ClC1=NC2=NC=CC=C2C(=C1)Cl | C8H4Cl2N2
reactant | 2-cyanobenzeneboronic acid | 10.0 mmol, 1.47 g | C(#N)C1=C(C=CC=C1)B(O)O | C7H6BNO2
reactant | sodium bicarbonate | 120.0 mmol, 1.01 g | C([O-])(O)=O.[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-(4-chloro-[1,8]naphthyridin-2-yl)-benzamide | ClC1=CC(=NC2=NC=CC=C12)C1=C(C(=O)N)C=CC=C1 | C15H10ClN3O
